US08110688B2
Synthesis of 1-{1-[2-(7-methoxy-2,2-dimethyl-4-oxochroman-8-yl) ethyl]piperidin-4-yl}-1H-indole-6-carboxylic acid
3.5 g of the above crude product of methyl 1-{1-[2-(7-methoxy-2,2-dimethyl-4-oxochroman-8-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxylate was dissolved in 28.0 mL of tetrahydrofuran and added with 14 mL of 1 N aqueous sodium hydroxide. 14 mL of methanol was added and the mixture was heated to 40° C. and stirred for 30 minutes. 7 mL of tetrahydrofuran and 3.5 mL of methanol were added and the mixture was stirred for 2 hours and further stirred at the same temperature for about 16 hours. When the reaction mixture was cooled with an ice-water bath and the pH was adjusted to 7 with 12.2 mL of 1 N hydrochloric acid and 0.5 mL of 1 N sodium hydroxide, crystals precipitated. 10 mL of water was further added to this slurry, and crystals were obtained by filtration and the crystals were washed with 21 mL of a mixture of 2-propanol and water (5:1). The crystals were dried in vacuo and 2.45 g of the title compound was obtained.

reactant | methyl 1-{1-[2-(7-methoxy-2,2-dimethyl-4-oxochroman-8-yl)ethyl]piperidin-4-yl}-1H-indole-6-carboxylate | COC1=CC=C2C(CC(OC2=C1CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)OC)(C)C)=O | C29H34N2O5
reactant | sodium hydroxide | 1 N, 14 mL | [OH-].[Na+]
reactant | methanol | 14 mL | CO | CH4O
reactant | methanol | 3.5 mL | CO | CH4O
reactant | hydrochloric acid | 1 N, 12.2 mL | Cl | ClH
reactant | sodium hydroxide | 1 N, 0.5 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 28.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 1-{1-[2-(7-methoxy-2,2-dimethyl-4-oxochroman-8-yl) ethyl]piperidin-4-yl}-1H-indole-6-carboxylic acid | 2.45 g | COC1=CC=C2C(CC(OC2=C1CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)O)(C)C)=O | C28H32N2O5
